US05112988
A solution of 1,1-bis(3-fluorophenyl)-2-methoxyethanol (156.7 g) (obtained by the reaction of 3-fluorophenylmagnesium bromide with methyl 2-methoxyacetate in THF) in formic acid (160 cc) is heated to reflux for 16 hours, cooled and poured into a mixture of saturated sodium carbonate solution (800 cc) and ethyl acetate (500 cc). The organic phase is washed with water (2×500 cc) and with saturated sodium chloride solution (500 cc), then dried and concentrated to dryness under reduced pressure (2.7 kPa) to give bis(3-fluorophenyl)acetaldehyde (144.5 g) in the form of a yellow oil.

reactant | 3-fluorophenylmagnesium bromide | FC=1C=C(C=CC1)[Mg]Br
reactant | methyl 2-methoxyacetate | COCC(=O)OC | C4H8O3
solvent | THF | C1CCOC1 | C4H8O
solvent | formic acid | 160 cc | C(=O)O | CH2O2
product | 1,1-bis(3-fluorophenyl)-2-methoxyethanol | 156.7 g | FC=1C=C(C=CC1)C(COC)(O)C1=CC(=CC=C1)F | C15H14F2O2
